US04481370
4-Chloro-3-(trifluoromethyl)phenyl carbamic fluoride was prepared in situ by the reaction of 221 parts of 4-chloro-3-(trifluoromethyl)isocyanatobenzene and 450 parts of hydrogen fluoride added over a period of 15-20 minutes at about 4° C. The reaction mixture was then sealed in a polytetrafluoroethylene reactor, heated to about 24° C. and maintained thereat, with agitation, for about 96 hours. The reactor was then opened to atmospheric pressure and most of the hydrogen fluoride and carbonyl fluoride gases removed. Analysis of the remaining organic product by gas chromatographic techniques, using n-heptadecane as an internal standard indicated a yield of 77 parts of 4-chloro-3-(trifluoromethyl)benzenamine.

reactant | 4-chloro-3-(trifluoromethyl)isocyanatobenzene | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | hydrogen fluoride | F | FH
reactant | carbonyl fluoride | C(=O)(F)F | CF2O
product | 4-Chloro-3-(trifluoromethyl)phenyl carbamic fluoride | ClC1=C(C=C(C=C1)NC(=O)F)C(F)(F)F | C8H4ClF4NO
